US05250517
23 g of sodium in small portions were added at -35° within 90 minutes to 1500 ml of liquid ammonia. After completion of the addition, 150 mg of iron-(III) nitrate.9H2O were added. To this suspension were added, while stirring vigorously, 150 g (1 mol) of phenylacetic acid methyl ester in 500 ml of absolute tetrahydrofuran and, half an hour later, 100 ml (1 mol) of isopropyl iodide were added dropwise. After completion of the addition, the ammonia was distilled off overnight. Water was added slowly to the liquid residue and the mixture was extracted with ether. The organic extracts were washed with water, dried over sodium sulfate and evaporated under reduced pressure, to obtain 165.8 g (87%) of 2-phenyl-3-methylbutyric acid methyl ester as a yellow oil which was used directly in the next step.

reactant | sodium | 23 g | [Na] | Na
reactant | ammonia | N | H3N
reactant | phenylacetic acid methyl ester | 1 mol, 150 g | COC(CC1=CC=CC=C1)=O | C9H10O2
reactant | isopropyl iodide | 1 mol, 100 ml | C(C)(C)I | C3H7I
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
catalyst | iron-(III) nitrate | 150 mg | [N+](=O)([O-])[O-].[Fe+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
product | 2-phenyl-3-methylbutyric acid methyl ester | 165.8 g, 87% | COC(C(C(C)C)C1=CC=CC=C1)=O | C12H16O2
